US07405325B2
Step 1.1: 3-(4-Methoxy-3-nitrophenyl)-1,3-oxazolidine-2-one
4-Fluoro-3-nitro-aniline (50.0 g) is dissolved in 100 ml N-methyl-pyrrolidone. Subsequently 2-chloroethyl-chloroformate (48.1 g) is added dropwise under external cooling, whereupon the internal temperature is kept below 60° C. After completion of the addition stirring is continued for 30 minutes and then a 30% methanolic sodium methoxide solution (230.7 g) is added dropwise in such a rate that under external cooling the temperature remains below 40° C. When the addition is completed, the reaction mixture is allowed to cool and then poured into cold water (2000 ml) and stirred for additional 30 minutes. The obtained suspension is filtered off, washed with water, and dried.

reactant | 4-Fluoro-3-nitro-aniline | 50.0 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | 2-chloroethyl-chloroformate | 48.1 g | ClCCOC(=O)Cl | C3H4Cl2O2
reactant | sodium methoxide | 230.7 g | C[O-].[Na+]
reactant | water | 2000 ml | O | H2O
solvent | N-methyl-pyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 3-(4-Methoxy-3-nitrophenyl)-1,3-oxazolidine-2-one | COC1=C(C=C(C=C1)N1C(OCC1)=O)[N+](=O)[O-] | C10H10N2O5
